US07855193B2
1-(4-(5-cyclohexylbenzofuran-2-yl)benzyl)piperidine-4-carboxylic acid
A mixture of 4-(5-cyclohexylbenzofuran-2-yl)benzaldehyde (22 mg, 0.07 mmol), acetic acid (7 μL, 0.11 mmol) and piperidine-4-carboxylic acid (14 mg, 0.11 mmol) in DCM/MeOH (1:1, 1.6 mL) was stirred at room temperature for 1 h. Sodium cyanoborohydride (2.3 mg, 0.05 mmol) was added and the reaction mixture was stirred for 4 h at room temperature. After concentration of solvent under reduced pressure, the resulting residue was dissolved in DMSO, filtered and purified by reverse phase preparative HPLC (Phenomenex reverse phase Luna 5μ C18(2) column, 60×21.2 mm ID) to yield the desired final product (15.4 mg, 51%): >95% purity by LCMS, ESI-MS: 418.1 (M+H)+, 1H NMR (400 MHz, CD3OD) δ 8.00 (d, J=8.0 Hz, 2H), 7.59 (d, J=8.0 Hz, 2H), 7.45 (d, J=1.6Hz, 1H), 7.43 (d, J=8.4 Hz, 1H), 7.26 (s, 1H), 7.21 (dd, J=8.4 Hz, J=1.6 Hz), 4.35 (s, 2H), 3.57(d, J=11.6 Hz, 2H), 3.07 (t, J=12 Hz, 2H), 2.64-2.53 (m, 2H), 2.24 (d, 2H), 1.19-1.86 (m, 4H), 1.79 (t, 2H), 1.58-1.42(m, 4H), 1.38-1.26(m, 2H).

reactant | 4-(5-cyclohexylbenzofuran-2-yl)benzaldehyde | 0.07 mmol, 22 mg | C1(CCCCC1)C=1C=CC2=C(C=C(O2)C2=CC=C(C=O)C=C2)C1 | C21H20O2
reactant | acetic acid | 0.11 mmol, 7 μL | C(C)(=O)O | C2H4O2
reactant | piperidine-4-carboxylic acid | 0.11 mmol, 14 mg | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | Sodium cyanoborohydride | 0.05 mmol, 2.3 mg | C(#N)[BH3-].[Na+]
solvent | DCM MeOH | 1.6 mL | C(Cl)Cl.CO
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-(4-(5-cyclohexylbenzofuran-2-yl)benzyl)piperidine-4-carboxylic acid | 15.4 mg, 51% | C1(CCCCC1)C=1C=CC2=C(C=C(O2)C2=CC=C(CN3CCC(CC3)C(=O)O)C=C2)C1 | C27H31NO3
